US09212150B2
Preparation of 4-Nitro-N′-(4-(trifluoromethoxy)phenyl)-benzohydrazonoyl chloride
To a magnetically stirred solution of N-chlorosuccinimide (1.23 g, 9.22 mmoL) in CH2Cl2 (16 mL) at 0° C. was added dimethyl sulfide (1.36 mL, 18.45 mmoL) and the reaction mixture was stirred for 15 min and then cooled to −78° C. To this solution was added 1-(4-nitrobenzylidene)-2-(4-(trifluoromethoxy)-phenyl)hydrazine (2 g, 6.15 mmoL) dissolved in CH2Cl2 (16 mL) and the reaction mixture was stirred at this temperature for 1 h, warmed to room temperature and stirred for 2 h. The solution was concentrated under reduced pressure. The residue was dissolved in CH2Cl2 (15 mL) and added to a SiO2 loading cartridge and purified via flash column chromatography (Gradient EtOAc/hexanes). The title compound was isolated as a yellow solid: mp 172-175° C.; 1H NMR (400 MHz, CDCl3) δ 8.29-8.26 (m, 3H), 8.09-8.05 (m, 3H), 7.22 (s, 4H); 19F NMR (376 MHz, CDCl3) δ −58.30; ESIMS m/z 359 ([M+H])+.

reactant | N-chlorosuccinimide | 1.23 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethyl sulfide | 1.36 mL | CSC | C2H6S
reactant | 1-(4-nitrobenzylidene)-2-(4-(trifluoromethoxy)-phenyl)hydrazine | 2 g | [N+](=O)([O-])C1=CC=C(C=NNC2=CC=C(C=C2)OC(F)(F)F)C=C1 | C14H10F3N3O3
solvent | CH2Cl2 | 16 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 16 mL | C(Cl)Cl | CH2Cl2
product | 4-Nitro-N′-(4-(trifluoromethoxy)phenyl)-benzohydrazonoyl chloride | [N+](=O)([O-])C1=CC=C(C(=NNC2=CC=C(C=C2)OC(F)(F)F)Cl)C=C1 | C14H9ClF3N3O3
